US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-3-chloronitrobenzene
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-carboxy-3-chloronitrobenzene (2.6 g) in dichloromethane (80 ml) were added isobutyl chloroformate (1.0 ml) and triethylamine (1.1 ml) in an ice bath and the mixture was stirred at the same temperature for 0.5 hours. To the reaction mixture was added 28% aqueous ammonia (0.5 ml) and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using dichloromethane/methanol 19/1 as an eluant to give the desired compound (2.2 g, yield 84%) as a pale yellow amorphous solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-carboxy-3-chloronitrobenzene | 2.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1C(=O)O)[N+](=O)[O-])Cl | C17H21ClN2O7
reactant | isobutyl chloroformate | 1.0 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | 0.5 ml | N | H3N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-3-chloronitrobenzene | 2.2 g, yield 84% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1C(N)=O)[N+](=O)[O-])Cl | C17H22ClN3O6
